US08026257B2
(±)-5-Chloro-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole.
(±)-tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (80 mg, 0.17 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated to afford 50 mg (79%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.54 (d, J=1.8 Hz, 1H), 7.37-7.40 (m, 2H), 7.30-7.32 (m, 3H), 7.69 (m, 1H), 4.49 (q, J=6.7 Hz, 1H), 3.40 (d, J=9.2 Hz, 1H), 3.29 (d, J=9.2 Hz, 1H), 2.87-2.93 (m, 2H), 2.67-2.77 (m, 2H), 2.07-2.26 (m, 2H), 1.78-1.93 (m, 2H), 1.41 (m, 3H); 13C-NMR (126 MHz, CDCl3) δ ppm 143.7, 135.7, 133.6, 128.8, 127.9, 127.1, 126.7, 126.0, 124.8, 124.1, 118.9, 78.0, 50.4, 42.6, 41.9, 33.5, 22.1. Mass spec.: 370.17 (MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.17 mmol, 80 mg | ClC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H32ClN3O3
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | (±)-5-Chloro-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | ClC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=CC=C1 | C21H24ClN3O
